US07332483B2
3-[5-(3,5-Difluorobenzamido)-2-methylphenyl]-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one
3,5-Difluorobenzoyl chloride (0.91 g) was added to a stirred mixture of 3-(5-amino-2-methylphenyl)-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one (1.5 g), triethylamine (1.04 g) and methylene chloride (50 ml) and the resultant mixture was stirred at ambient temperature for 18 hours. The mixture was washed with a saturated aqueous sodium bicarbonate solution and the organic phase was evaporated. There was thus obtained the title compound (2.04 g); NMR Spectrum: (DMSOd6) 2.05 (s, 3H), 2.22 (s, 3H), 2.45-2.5 (m, 4H), 3.24-3.3 (m, 4H), 7.41-7.56 (m, 3H), 7.61-7.68 (m, 4H), 7.75-7.79 (m, 2H), 8.06 (s, 1H), 10.5 (s, 1H); Mass Spectrum: M+H+ 490.

reactant | 3,5-Difluorobenzoyl chloride | 0.91 g | FC=1C=C(C(=O)Cl)C=C(C1)F | C7H3ClF2O
reactant | 3-(5-amino-2-methylphenyl)-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one | 1.5 g | NC=1C=CC(=C(C1)N1C=NC2=CC=C(C=C2C1=O)N1CCN(CC1)C)C | C20H23N5O
reactant | triethylamine | 1.04 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-[5-(3,5-Difluorobenzamido)-2-methylphenyl]-6-(4-methylpiperazin-1-yl)-3,4-dihydroquinazolin-4-one | 2.04 g | FC=1C=C(C(=O)NC=2C=CC(=C(C2)N2C=NC3=CC=C(C=C3C2=O)N2CCN(CC2)C)C)C=C(C1)F | C27H25F2N5O2
